data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,5198,"CCC(N(C)C)[O+:1](CC)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3224,"CCO.COC1=CC=C([O+:1](C2OC(COC(C)=O)C(OC(C)=O)C(OC(C)=O)C2OC(C)=O)[K-:2][Cl])C=C1|((2, 1), 1)"
train,pmechdb_split_0,0,5432,"CC(C)(O)[CH:1]([H:2])[C:3](C)=[O:4].[OH-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6560,"C1=CC=[N:1]C=C1.C1=CC=[NH+]C=C1.CC(=O)O[I+:2]1([O:3][C:4](C(OCC2=CC=CC=C2)C(C=CC2=CC=CC=C2)O[Si](C)(C)C(C)(C)C)(C2(C(=O)OC(C)(C)C)OC3(CCCC3)OC2C(=O)OC(C)(C)C)[H:5])OC(=O)C2=C1C=CC=C2.CC(=O)[O-]|(1, 5);((5, 4), 3);((3, 2), 2)"
train,pmechdb_split_0,0,5104,"CC(=O)[O-].CC[N:1](CC)CC.COC1=C([N+](=O)[O-])C=CC(N2CCC(O)([N+:2]3([H:3])CCCC(O)C3)CC2)=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9593,"CC(C)OC(CCC1=CC=CC=C1)C[CH+:1][CH2:2][Si-:3](C)(C)(C)OS(=O)(=O)C(F)(F)F.C[Si](C)(C)O[Si](C)(C)C|((3, 2), 1)"
train,pmechdb_split_0,0,7293,"CC1(C)C=C(O[Si:1](C)(C)C)CCC1.[Li:2][CH3:3]|((2, 3), 1)"
train,pmechdb_split_0,0,3747,"CCC(OC)[O+:1](CC)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8534,"CC[CH:1]=[N+:2](C)C.CC[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,10132,"CC(=O)OCC1OC(C=[C+:1][CH2:2][Si-:3](C)(C)(C)[O+]=C(C)[O][Sn-]([Cl])([Cl])([Cl])[Cl])C=CC1OC(C)=O|((3, 2), 1)"
train,pmechdb_split_0,0,9635,"CCO[C+:1]1C(Br)=CC(Br)=C[C:2]1(Br)[H:3].[Br-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,7648,"CC(C)[Si](C#C[CH-:1][Si](C(C)C)(C(C)C)C(C)C)(C(C)C)C(C)C.CCCC.[Li+:2]|(1, 2)"
train,pmechdb_split_0,0,8622,"C[C-:1](C)C.C[O+](C)[Si:2](C)(C)C|(1, 2)"
train,pmechdb_split_0,0,2793,"CCO[C+:1]1C=CC=C[C:2]1([N+](=O)[O-])[H:3].O=S(=O)(O)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,4174,"C[C:1](=[CH2:2])[O-:3].[CH2:4]=[CH:5][CH:6]=[O:7]|(3, 1);((1, 2), 4);((4, 5), 6);((6, 7), 7)"
train,pmechdb_split_0,0,5060,"O.OC1(C[NH2:1])CCCCC1.[Cl-].[N:2]#[O+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3882,"CC(=O)CC(C)([NH2+]C1=C2N=CNC2=CC=C1)[O-:1].CC(=O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,200,"CCC(C)[NH:1]C.[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6523,"O=C(CC1=CC=CC=C1)C[C:1](OC(=O)C1=CC=CC=C1)=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4455,"CC1(C)CCCC[CH:1]=[C:2]1C.[H:3][Br:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8885,"OCC(Br)C=[O+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4830,"CCCC(CO)CC(=O)O.C[C+:1](C)C.O=C(C(F)(F)F)[O-:2]|(2, 1)"
train,pmechdb_split_0,0,801,"COC1=C2OC3C(=O)CCC4C5CC(=C2C34CC[N:1]5C)C=C1.COC1=C2OC3C([O+:2](C)[H:3])=CCC4C5CC(=C2C34CCN5C)C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3919,"C[CH2:1][O:2][P+:3](C)(C)C.[Cl-:4]|(4, 1);((1, 2), 3)"
train,pmechdb_split_0,0,7770,"CC[NH+](CC)CC.COC1=C(OC)C=C(C23CC[C+:1]([CH2:2][Si-:3](C)(C)(C)OS(C)(=O)=O)CC2N(C)C(=O)C3)C=C1.[Cl-]|((3, 2), 1)"
train,pmechdb_split_0,0,6211,"CC[O:1][C:2](C)(C1CCCC1=O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6717,"C=CC(CBr)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8251,"CC(O)[C:1]1([H:2])CCC[C:3]1=[O:4].CC[O-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,87,"CC(C)(C)[Si:1](C)(C)Cl.CC(O)C1=C2C=CC=CC2=CC=C1.CN(C)C1=CC=[N:2]C=C1|(2, 1)"
train,pmechdb_split_0,0,6042,"C1=CC2=C(C=C1)C(CC[NH2+:1][H:2])=CN2.CC(C)(C)OC(=O)C(NCCC1=CNC2=CC=CC=C12)(C(=O)CC1=CC=CC=C1)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1201,"CCCCCC(C[C:1]#[C:2]C)C[N+:3](CC1=CC=CC=C1)=[CH2:4]|((2, 1), 4);((4, 3), 3)"
train,pmechdb_split_0,0,7665,"C=CC(N)=[O:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2655,"CC(C)[C:1](C)=[O+:2][Mg-:3]([Cl])[CH:4](C)[CH2:5][H:6]|((3, 4), 5);((5, 6), 1);((1, 2), 2)"
train,pmechdb_split_0,0,9284,"CCC(C)(C)[NH:1]C.[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3886,"CC[O-:1].CO[C:2](C)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3939,"C1CCNCC1.CC(=O)[O-].CCOC(=O)[C:1]([CH:2](CC(C)CC)[NH+:3]1CCCCC1)=[C:4](C)[OH:5].O|(5, 4);((4, 1), 2);((2, 3), 3)"
train,pmechdb_split_0,0,2438,"CCCC(C1=CC=CC=C1)[O:1][H:2].[H:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,8973,"C[C:1](C)=[N:2]C.[H:3][AlH3-:4]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,8086,"COC(=O)C1CCC2CC(C)C1O[C:1]2([O-:2])[O:3]C|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,6837,"CNC(=O)C=C(CC1=CC=CC=C1)[O:1][H:2].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,132,"CC(C)COCC1C(O)C[CH:1]([N+:2]2=CC(C3CCCCC3)=CC=C2)[O:3]1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,332,"O=C(O)NC(N[C:1](C([N+](=O)[O-])[N+](=O)[O-])=[OH+:2])=C([N+](=O)[O-])[N+](=O)[O-].O=S(=O)([O-])O.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8010,"O[C:1]1([O-:2])[CH2:3]C[C:4]1(OC1=CC=CC=C1)[Br:5]|(2, 1);((1, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,3678,"C[OH+:1][CH:2](O)[NH2:3].[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6968,"CC1(C)CC(O[Si](C)(C)C)=C[C:1](=[O:2])C1.[Li:3][CH3:4]|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,8314,"CCSC[CH:1]=[CH:2][O-:3].[H:4][OH2+:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
